US04198436
(a) 6-(3-Dimethylaminophenoxy)hexyl bromide.
A mixture of 27.5 g. (0.2 mole) of m-dimethylaminophenol, 94 g. (0.39 mole) of 1,6-dibromohexane, 53.8 g. of powdered anhydrous potassium carbonate and 350 ml. of acetone was heated at reflux under nitrogen for two days. The reaction mixture was concentrated in vacuo and the residue partitioned between water and methylene dichloride. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was distilled to remove unreacted 1,6-dibromohexane (b.p. 63° C., 0.2 mm.). The remaining material was dissolved in 5% sulfuric acid by warming on a steam bath, then filtered, cooled and made basic with sodium hydroxide. The product was extracted with chloroform, washed with water, dried over magnesium sulfate and concentrated to a reddish brown oil, 52.4 g.

reactant | m-dimethylaminophenol | 0.2 mole | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | 1,6-dibromohexane | 0.39 mole | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-(3-Dimethylaminophenoxy)hexyl bromide | CN(C=1C=C(OCCCCCCBr)C=CC1)C | C14H22BrNO
